US08080566B1
A 100-mL round-bottom flask was charged with a solution of methyl 9H-carbazole-1-carboxylate (2 g, 8.89 mmol, 1.00 equiv) in DMF (20 mL). To this was added NaH (1.78 g, 74.17 mmol, 5.00 equiv) in several batches followed by addition of bromoethane (1.92 g, 17.94 mmol, 2.00 equiv). The resulting solution was stirred at room temperature for 6 hours. Upon completion, the reaction was then quenched with water (20 mL). The mixture was then extracted with ethyl acetate (3×20 mL). Combined organic layers were dried over anhydrous sodium sulfate, filtered off and concentrated on a rotary evaporator. The residue was purified by a silica gel column chromatography eluted with dichloromethane/methanol (50:1) affording methyl 9-ethyl-9H-carbazole-1-carboxylate as light yellow solid (1.3 g, 58%).

reactant | methyl 9H-carbazole-1-carboxylate | 8.89 mmol, 2 g, 1.00 equiv | C1(=CC=CC=2C3=CC=CC=C3NC12)C(=O)OC | C14H11NO2
reactant | NaH | 74.17 mmol, 1.78 g, 5.00 equiv | [H-].[Na+]
reactant | bromoethane | 17.94 mmol, 1.92 g, 2.00 equiv | BrCC | C2H5Br
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | methyl 9-ethyl-9H-carbazole-1-carboxylate | 1.3 g, 58% | C(C)N1C2=CC=CC=C2C=2C=CC=C(C12)C(=O)OC | C16H15NO2
